US07560551B2
To 3-benzoylthiophene-2-carboxylic acid (1.00 g, 4.31 mmol) and EtOH (15 mL) was added hydrazine (1.35 ml, 43.1 mmol). A water condenser was attached to the reaction flask and the mixture was heated to reflux under nitrogen for 3.5 hours. The reaction was cooled to RT, the resulting solids filtered and washed with water, and dried to yield 4-phenylthieno[2,3-d]pyridazin-7(6H)-one as a white solid. MS m/z=229 [M+1]+. Calc'd for C12H8N2OS: 228.27.

reactant | 3-benzoylthiophene-2-carboxylic acid | 4.31 mmol, 1.00 g | C(C1=CC=CC=C1)(=O)C1=C(SC=C1)C(=O)O | C12H8O3S
reactant | hydrazine | 43.1 mmol, 1.35 ml | NN | H4N2
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-phenylthieno[2,3-d]pyridazin-7(6H)-one | C1(=CC=CC=C1)C=1C2=C(C(NN1)=O)SC=C2 | C12H8N2OS
